US04866077
4,4-Dimethyl-2-(3-pyridyl)-oxazoline (86)
A solution of 69 g (0.500 mol) of methyl nicotinoate and 45 g (0.500 mol) of 2-amino-2,2,dimethyl-ethanol in 600 ml of toluene was refluxed with a water separator overnight. The solvent was removed in vacuo, 300 ml of water added, and the aqueous solution extracted with 3×300 ml of dichloromethane. Drying of the organic phase over magnesium sulphate and evaporation in vacuo gave a red oil which was filtered through silica gel (eluent: methanol/ether=1/19). Removal of solvents in vacuo gave a yellow oil, 86. Yield: 30.0 g (0.170 mol, 34%).

reactant | methyl nicotinoate | 0.500 mol, 69 g | C(C1=CN=CC=C1)(=O)OC | C7H7NO2
reactant | 2-amino-2,2,dimethyl-ethanol | 0.500 mol, 45 g | NC(CO)(C)C | C4H11NO
reactant | water | O | H2O
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 4,4-Dimethyl-2-(3-pyridyl)-oxazoline | CC1(N=C(OC1)C=1C=NC=CC1)C | C10H12N2O
